US08404679B2
N-[(3RS,4SR)-1-(1-Cyclopropanesulfonyl-piperidine-4-carbonyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide
In analogy to the procedure described for the synthesis of example 140, the title compound N-[(3RS,4SR)-1-(1-Cyclopropanesulfonyl-piperidine-4-carbonyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide was prepared from N-[(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide using cyclopropanesulfonylchloride instead of ethanesulfonyl chloride and was obtained as a off-white foam. MS m/e: 662.2 [M]+.

reactant | N-[(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | ClC=1C=C(C=CC1Cl)C1C(CN(C1)C(=O)C1CCNCC1)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C26H28Cl2F3N3O3
reactant | cyclopropanesulfonylchloride | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
product | N-[(3RS,4SR)-1-(1-Cyclopropanesulfonyl-piperidine-4-carbonyl)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | C1(CC1)S(=O)(=O)N1CCC(CC1)C(=O)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C29H32Cl2F3N3O5S
